US05359079
Preparation of 5-Amino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide (Formula I, W and X=F, Y and Z=H)
5-Amino-3-chlorosulfonyl-1,2,4-triazole (20 g of about 92 percent purity, 0.1 mole) was slurried in 168 g (2.8 moles) of acetic acid and 14.2 g (0.11 moles) of 2,6-difluoroaniline were added. The mixture was stirred and heated at 90° C. for 11 hours at which time analysis by HPLC a 76 percent conversion to the title compound and 9 percent conversion to its 5-acetylamino derivative. Water was added and the mixture cooled to 10° C. The solids were collected by filtration, washed with water, and dried at 60° C. to obtain 14.8 g (53 percent of theory) of the title compound as a 96 percent purity product. Analysis of the filtrate by HPLC showed that it contained another 26 percent of theory and the total yield was 79 percent of theory.

reactant | 5-Amino-3-chlorosulfonyl-1,2,4-triazole | 0.1 mole, 20 g | NC1=NC(=NN1)S(=O)(=O)Cl | C2H3ClN4O2S
reactant | acetic acid | 2.8 moles, 168 g | C(C)(=O)O | C2H4O2
reactant | 2,6-difluoroaniline | 0.11 moles, 14.2 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
product | 5-Amino-N-(2,6-difluorophenyl)-1,2,4-triazole-3-sulfonamide | NC1=NC(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F | C8H7F2N5O2S
